US04769463
A reaction vessel equipped with a stirrer was charged with 15.3 grams (0.11 mol) of 3-nitrophenol, 11.9 grams (0.05 mol) of 2,6-dibromopyridine, 8.5 grams (0.08 mol) of anhydrous sodium carbonate and 100 ml of 1-methyl-2-pyrrolidinone. The mixture was elevated its temperature with stirring under ventilation of nitrogen and reacted at 160°-175° C. for 15 hours. After ending the reaction, the resultant mixture was treated by the same procedure as in Example 11 to give 16.5 grams (93.4% yield) of 2,6-bis(3-nitrophenoxy)pyridine as the intermediate.

reactant | 3-nitrophenol | 0.11 mol, 15.3 grams | [N+](=O)([O-])C=1C=C(C=CC1)O | C6H5NO3
reactant | 2,6-dibromopyridine | 0.05 mol, 11.9 grams | BrC1=NC(=CC=C1)Br | C5H3Br2N
reactant | sodium carbonate | 0.08 mol, 8.5 grams | C([O-])([O-])=O.[Na+].[Na+]
solvent | 1-methyl-2-pyrrolidinone | 100 ml | CN1C(CCC1)=O | C5H9NO
product | 2,6-bis(3-nitrophenoxy)pyridine | 16.5 grams, 93.4% yield | [N+](=O)([O-])C=1C=C(OC2=NC(=CC=C2)OC2=CC(=CC=C2)[N+](=O)[O-])C=CC1 | C17H11N3O6
